US07566803B2
F. 1-(4-{1-Ethyl-1-[4-(1H-tetrazol-5-yl)-phenyl]-propyl}-2-methyl-phenoxy)-3,3-dimethyl-butan-2-ol
To a mixture of 1-(4-{1-Ethyl-1-[4-(1H-tetrazol-5-yl)-phenyl]-propyl}-2-methyl-phenoxy)-3,3-dimethyl-butan-2-one (0.37 g, 0.88 mmol) and EtOH (5 mL) was added NaBH4 (0.037 g, 0.97 mmol) and the solution stirred for 1 hour. The solids were removed by filtration and the solution concentrated. The residue was purified by ISCO (10-30 [89% EtOAc:10% MeOH:1% AcOH] gradient) to furnish the title compound (0.32 g, 0.76 mmol, 86%).

reactant | 1-(4-{1-Ethyl-1-[4-(1H-tetrazol-5-yl)-phenyl]-propyl}-2-methyl-phenoxy)-3,3-dimethyl-butan-2-one | 0.88 mmol, 0.37 g | C(C)C(CC)(C1=CC=C(C=C1)C1=NN=NN1)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C | C25H32N4O2
reactant | NaBH4 | 0.97 mmol, 0.037 g | [BH4-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-(4-{1-Ethyl-1-[4-(1H-tetrazol-5-yl)-phenyl]-propyl}-2-methyl-phenoxy)-3,3-dimethyl-butan-2-ol | 0.76 mmol, 0.32 g, 86% | C(C)C(CC)(C1=CC=C(C=C1)C1=NN=NN1)C1=CC(=C(OCC(C(C)(C)C)O)C=C1)C | C25H34N4O2
